data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_105897_2,[C:1]([C:4]1=[C:3]([N:5]([H:9])[H:10])[N:2]1[H:8])([C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12]>>[C:1]1([H:11])([H:12])[C@@:4]2([N:2]([H:8])[C@:3]2([N:5]([H:9])[H:10])[H:13])[C:6]1[C:7]([H:14])[H:15],71.53625499998171
MR_236748_1,[C:1](/[C:4](=[C:7](/[C:2]([H:17])([H:18])[H:19])[H:13])[N:8]=[C:3]([N:5]([H:9])[H:10])[N:6]([H:11])[H:12])([H:14])([H:15])[H:16]>>[C:1]([C:4]1=[N:8][C:3]([N:5]([H:9])[H:10])([N:6]([H:11])[H:12])[C:7]1([C:2]([H:17])([H:18])[H:19])[H:13])([H:14])([H:15])[H:16],50.79047749999731
MR_73425_1,[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([O:6][H:11])=[O:8])([C:4]([O:7][H:12])=[O:9])[O:5][H:10]>>[C:1](\[C:2]([H:13])([H:14])[H:15])(=[C:3](/[O:6][H:11])[O:8][C:4]([O:7][H:12])=[O:9])[O:5][H:10],68.74764500006677
MR_169105_0,[C:1]([N:2]([H:7])[H:8])(=[C:5]([H:12])[H:13])/[N:6]=[C:4](\[N:3]([H:9])[H:10])[H:11]>>[C:1]1([N:2]([H:7])[H:8])=[N:6][C:4]([N:3]([H:9])[H:10])([H:11])[C:5]1([H:12])[H:13],42.959277500008426
MR_249490_0,[C:1]([C:2]([O:7][H:9])([H:11])[H:12])([O:4][O:5][C:3]([H:13])([H:14])[H:15])([O:6][H:8])[H:10]>>[C:1]([O:4][C:2]([O:7][H:9])([H:11])[H:12])([O:5][C:3]([H:13])([H:14])[H:15])([O:6][H:8])[H:10],48.020065000036425
MR_453744_1,[C:1]([N:4]([C:2]([H:15])([H:16])[H:17])[H:10])([N:6]([H:12])[H:13])(/[C:7](=[C:5](\[C:3]([H:18])([H:19])[H:20])[O:8][H:9])[H:14])[H:11]>>[C:1](\[N:6]([H:12])[H:13])(=[C:7](/[C:5]([C:3]([H:18])([H:19])[H:20])([N:4]([C:2]([H:15])([H:16])[H:17])[H:10])[O:8][H:9])[H:14])[H:11],53.12414999999078
MR_295574_1,[C:1]([N:3]([N:4]([C:2]([H:12])([H:15])[H:16])[C:6](=[O:8])[H:10])[C:5](=[O:7])[H:9])([H:11])([H:13])[H:14]>>[C:1]([N:3]([N:4]([C:2]([H:12])([H:15])[H:16])[C:5](=[O:7])[H:9])[C:6](=[O:8])[H:10])([H:11])([H:13])[H:14],71.70693500001448
MR_182056_1,[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([H:11])([H:15])[H:16])([C:4]12[O:6][N:7]1[C:5]([H:10])=[N:8]2)[H:9]>>[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([H:11])([H:15])[H:16])([c:4]1[o:6][n:7][c:5]([H:10])[n:8]1)[H:9],11.353984999976348
MR_263227_0,[C:1](/[N:7]=[C:5]([C:2](/[N:3]([H:9])[H:10])=[C:4](/[O:6][H:8])[H:11])\[H:12])([H:13])([H:14])[H:15]>>[C:1]([N:7]1[C:4]([O:6][H:8])([H:11])[C:2]([N:3]([H:9])[H:10])=[C:5]1[H:12])([H:13])([H:14])[H:15],42.46606250000525
MR_137538_1,[C:1]([C:5](=[C:4]([C:2]([H:12])([H:13])[H:17])[C:3]([H:14])([H:15])[H:16])[H:11])(/[N:6]=[N:7]/[H:8])([H:9])[H:10]>>[C:1](=[C:5]([C:4]([C:2]([H:12])([H:13])[H:17])([C:3]([H:14])([H:15])[H:16])/[N:6]=[N:7]/[H:8])[H:11])([H:9])[H:10],40.09536749999825
MR_69582_1,[C:1]([C:2]([H:12])([H:15])[H:16])([C:3]([H:13])([H:14])[H:17])([C:5](=[O:8])[H:9])/[C:6](=[C:7](\[C:4]([H:18])([H:19])[H:20])[H:11])[H:10]>>[C:1]1([C:2]([H:12])([H:15])[H:16])([C:3]([H:13])([H:14])[H:17])[C:6]([C:5](=[O:8])[H:9])([H:10])[C:7]1([C:4]([H:18])([H:19])[H:20])[H:11],72.28611750001463
MR_416808_1,[C:1]([C:3](=[C:6]([H:16])[H:17])[N:8]=[O:9])(/[C:5](=[C:2](\[N:4]([H:11])[H:12])[O:7][H:10])[H:15])([H:13])[H:14]>>[C:1]1([H:13])([H:14])[C:3](=[C:6]([H:16])[H:17])[C:5]1([C:2]([N:4]([H:11])[H:12])([O:7][H:10])[N:8]=[O:9])[H:15],63.03300250001314
MR_4256_1,[C:1]([C:2]([C:4]([C:3]([O:7][H:8])([H:11])[H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[H:10])(=[O:6])[H:9]>>[C:1]1([O:7][H:8])([H:9])[C:2]([C:5]([H:15])([H:16])[H:17])([H:10])[C:4]([H:13])([H:14])[C:3]([H:11])([H:12])[O:6]1,64.75549000001593
MR_384976_0,[C:1]([O:4][N:2]([H:8])[H:9])([N:6][C:3]([O:5][H:7])[H:12])([H:10])[H:11]>>[C:1](=[N:6][C@@:3]([O:4][N:2]([H:8])[H:9])([O:5][H:7])[H:12])([H:10])[H:11],42.14917499998492
MR_265964_1,[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([C:4](=[O:8])[H:11])=[O:7])([O:5][H:9])[O:6][H:10]>>[C:1]([C:2]([H:12])([H:13])[H:14])([C@@:4]1([H:11])[C:3](=[O:7])[O:8]1)([O:5][H:9])[O:6][H:10],50.04124249999848
MR_225232_0,[C:1]([C:2]([H:13])([H:14])[H:15])([C:5](=[C:6]([C:3]([H:16])([H:17])[H:18])[C:4]([H:19])([H:20])[H:21])[N:7]([H:11])[H:12])([O:8][H:9])[H:10]>>[C:1]1([C:2]([H:13])([H:14])[H:15])([H:10])[C:5]([N:7]([H:11])[H:12])([O:8][H:9])[C:6]1([C:3]([H:16])([H:17])[H:18])[C:4]([H:19])([H:20])[H:21],72.92365750001011
MR_177011_1,[C:1]([O:4][O:5][C:3]([C:2]([H:9])([H:10])[H:11])=[O:7])(=[O:6])[H:8]>>[C:1]1([O:6][C:3]([C:2]([H:9])([H:10])[H:11])=[O:7])([H:8])[O:4][O:5]1,59.31883000000951
MR_190934_0,[C:1]([O:3][O:2][O:4][H:7])([O:5][H:8])=[O:6]>>[C:1](=[O:3])([O:5][H:8])[O:6][O:2][O:4][H:7],44.804755000021714
MR_205106_0,[C:1]([C:3]([N:2]([O:4][O:5][H:7])[H:8])=[O:6])([H:9])([H:10])[H:11]>>[C:1](/[C:3](=[N:2]\[H:8])[O:6][O:4][O:5][H:7])([H:9])([H:10])[H:11],72.25536999998525
MR_191671_0,[C:1]([N:3]([C:4](=[C:6]([H:16])[H:17])[O:7][H:9])[C:5]([C:2]([H:13])([H:14])[H:15])=[O:8])([H:10])([H:11])[H:12]>>[C:1](/[N:3]=[C:4](/[C:6]([C:5]([C:2]([H:13])([H:14])[H:15])=[O:8])([H:16])[H:17])[O:7][H:9])([H:10])([H:11])[H:12],46.75125999999395
MR_168703_0,[C@:1]([C:2](=[O:6])[H:9])([C:3](=[C:4]([H:11])[H:12])[H:10])([O:5][H:7])[H:8]>>[C:1](=[C:3](\[C:4]([C:2](=[O:6])[H:9])([H:11])[H:12])[H:10])(\[O:5][H:7])[H:8],56.76239499997209
